US09034921B2
Step 2: 2-(2-Bromo-6-chloro-5-(4-ethoxybenzyl)-3-((3S,4R,5R,6R)-3,4,5-tris(benzyloxy)-6-(benzyloxymethyl)-tetrahydro-2H-pyran-2-yl)phenoxy)acetic acid
To a solution of ethyl 2-(2-bromo-6-chloro-5-(4-ethoxybenzyl)-3-((3S,4R,5R,6R)-3,4,5-tris(benzyloxy)-6-(benzyloxymethyl)-tetrahydro-2H-pyran-2-yl)phenoxy)acetate (1.09 g, 1.14 mmole) in a mixture of THF/MeOH/H2O (12 mL/4 mL/4 mL) was added LiOH.H2O (144 mg, 3.42 mmole). The resulting solution was stirred at rt overnight. The reaction mixture was concentrated in vacuo and diluted with water. The resulting solution was acidified with 1N—HCl solution followed by extraction with ethyl acetate. The organic layer was dried over MgSO4, filtered, and concentrated in vacuo to yield the title compound (1.03 g, 98%) as a brown gum.

reactant | ethyl 2-(2-bromo-6-chloro-5-(4-ethoxybenzyl)-3-((3S,4R,5R,6R)-3,4,5-tris(benzyloxy)-6-(benzyloxymethyl)-tetrahydro-2H-pyran-2-yl)phenoxy)acetate | 1.14 mmole, 1.09 g | BrC1=C(OCC(=O)OCC)C(=C(C=C1C1O[C@@H]([C@H]([C@@H]([C@H]1OCC1=CC=CC=C1)OCC1=CC=CC=C1)OCC1=CC=CC=C1)COCC1=CC=CC=C1)CC1=CC=C(C=C1)OCC)Cl | C53H54BrClO9
reactant | LiOH.H2O | 3.42 mmole, 144 mg | O[Li].O
solvent | THF MeOH H2O | 12 mL | C1CCOC1.CO.O
product | 2-(2-Bromo-6-chloro-5-(4-ethoxybenzyl)-3-((3S,4R,5R,6R)-3,4,5-tris(benzyloxy)-6-(benzyloxymethyl)-tetrahydro-2H-pyran-2-yl)phenoxy)acetic acid | 1.03 g, 98% | BrC1=C(OCC(=O)O)C(=C(C=C1C1O[C@@H]([C@H]([C@@H]([C@H]1OCC1=CC=CC=C1)OCC1=CC=CC=C1)OCC1=CC=CC=C1)COCC1=CC=CC=C1)CC1=CC=C(C=C1)OCC)Cl | C51H50BrClO9
